US08383644B2
(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester was coupled with (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester bis hydrochloride according to General Procedure L furnished (3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester. This compound was converted to (S)-2-{[(3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester bis hydrochloride according to General Procedure C. LCMS (m/z) 707.

reactant | (3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3 | C30H37NO7
reactant | (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester bis hydrochloride | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)N)=O
product | (3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3 | C47H55N3O9
